US04282245
A mixture of 0.1 g of 2-(10,11-dihydro-8-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide, 1.0 g of sodium hydroxide, 10 ml of water and 20 ml of ethanol was refluxed for 3 hours. After the completion of the reaction, the solvent was removed by distillation to obtain a residue, to which was added ice water, and the mixture was acidified with hydrochloric acid and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a residue, which was chromatographed over silica gel and eluted with chloroform/benzene (4/1), thereby obtaining a solid substance. This substance was recrystallized from benzene-n-hexane to give 35 mg (yield: 35%) of 2-(10,11-dihydro-8-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as a powder having a melting point of 152°-153° C.

reactant | 2-(10,11-dihydro-8-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 0.1 g | COC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C1 | C18H17NO3S
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(10,11-dihydro-8-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 35 mg, yield: 35% | COC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C1 | C18H16O4S
